US04841045
Methyl 3-Benzyl-1,2,3,3a,4,5-hexahydro-4[2.2-dimethyl-3-(t-butyldimethylsilyloxy)propyl]-7H-pyrrolo(2,3-d)carbazole-6-carboxylate
To a solution of 3.5 g (14.3 mmol) of methyl 1,2,3,4,5,6-hexahydroazepino(4,5-b)indole-5-carboxylate in 175 mL of dry CH2Cl2 at 20° C. was added dropwise, over 2 min., 3.5 g (14.3 mmol, 1 eq) of 4,4-dimethyl-5-t-butyldimethylsilyloxyvaleraldehyde in 25 mL of dry CH2Cl2Stirring was continued overnight (16 h) at 20° C. The solvent was removed under vacuum (aspirator) and the residue taken up in CHCl3 (150 mL). To this yellow solution was added 2.5 mL of benzyl bromide and the mixture heated at reflux for 18 h. The solvent was removed under vacuum (aspirator) and the residue triturated with pentane to give a gummy solid. The pentane was removed by pipette and the gum triturated twice more with additional pentane. To this residue was added 100 mL of dry methanol and 6 mL 4 eq; 0.043 mol) of dry triethylamine and the whole heated at reflux for 3 h. After cooling, the solvent was removed under vacuum (aspirator) and the residue taken up in CH2Cl2 and washed with 10% NazCO3. After drying over MgSO4 and concentration under vacuum (aspirator), the residue was adsorbed on silica gel (20 g) and applied to the top of a silica gel column (200 g, as a slurry in ethyl ether/pentane 3:7). Elution with the latter solvent mixture afforded 5.6 g (70% overall based on the azepine) of the title compound. TLC: (Silica) Rf 0.60 (ethyl ether), detection, CAS, dark blue green with yellow center.

reactant | methyl 1,2,3,4,5,6-hexahydroazepino(4,5-b)indole-5-carboxylate | 14.3 mmol, 3.5 g | C1CNCC(C=2NC=3C=CC=CC3C21)C(=O)OC | C14H16N2O2
reactant | 4,4-dimethyl-5-t-butyldimethylsilyloxyvaleraldehyde | 14.3 mmol, 3.5 g, 1 eq | CC(CCC=O)(CO[Si](C)(C)C(C)(C)C)C | C13H28O2Si
reactant | azepine | N1C=CC=CC=C1 | C6H7N
reactant | CH2Cl2 | 175 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-Benzyl-1,2,3,3a,4,5-hexahydro-4[2.2-dimethyl-3-(t-butyldimethylsilyloxy)propyl]-7H-pyrrolo(2,3-d)carbazole-6-carboxylate | C(C1=CC=CC=C1)N1CCC23C1C(CC(=C3NC=3C=CC=CC23)C(=O)OC)CC(CO[Si](C)(C)C(C)(C)C)(C)C | C34H48N2O3Si
